US04789675
A mixture of (R)-2-chloro-4-methoxycarbonylbutyric acid (3.85 g) and thionyl chloride (2.4 ml) was stirred at 75° C. for 1 hour and the excess thionyl chloride was removed by distillation to give (R)-2-chloro-4-methoxycarbonylbutyryl chloride as an oil. A solution of this oil in ethyl acetate (10 ml) was then added dropwise to a stirred and ice-cooled mixture of 3-amino-5,6,7,8-tetrahydro-2-naphthol hydrobromide (5.20 g), sodium bicarbonate (4.48 g), water (20 ml) and ethyl acetate (30 ml). The whole was stirred at 0° C. for 1.5 hour and the organic layer was separated. The aqueous layer was further extracted with ethyl acetate. The combined organic layer was washed with water and dried over magnesium sulfate. Evaporation of the solvent gave methyl (R)-4-chloro-4-[N-(3-hydroxy-5,6,7,8-tetrahydro-2naphthyl)carbamoyl]butyrate as an oil (6.20 g). A mixture of this oil, powdered potassium carbonate (2.95 g) and dimethylformamide (20 ml) was then stirred at room temperature for 1.5 hour. Dilution with water gave methyl (S)-3-(3,4,6,7,8,9-hexahydro-3-oxo-2H-naphtho[2,3-b][1,4]oxazin-2-yl)propionate was crystals (2.52 g, 40.9%). Purification by column chromatography on silica gel with ethyl acetate-hexane (3:2, v/v), followed by recrystallization from ethyl acetate-ethyl ether gave colorless crystals (2.22 g, 36.0%), m.p. 138°-139° C. [α]D26 -7.8° (c=0.3, CHCl3).

reactant | (R)-2-chloro-4-methoxycarbonylbutyric acid | 3.85 g | Cl[C@@H](C(=O)O)CCC(=O)OC | C6H9ClO4
reactant | thionyl chloride | 2.4 ml | S(=O)(Cl)Cl | Cl2OS
product | (R)-2-chloro-4-methoxycarbonylbutyryl chloride | Cl[C@@H](C(=O)Cl)CCC(=O)OC | C6H8Cl2O3
